US06838291B2
To a mixture of N-[1′-(6-cyano-1,2,3,4-tetrahydro-2(R)-naphthalenyl)-3,4-dihydro-4(R)-t-butyldimethylsilyloxyspiro[2H-1-benzopyran-2,4′-piperidin]-6-yl]trimethylsilylethanesulfonamide (0.50 gm, 0.75 mmole) in dimethylformamide (5 mL) under argon was added cesium fluoride (0.34 gm, 2.25 mmole)and the mixture heated to 95° C. for 30 hrs. The reaction was cooled diluted with 10% aqueous sodium bicarbonate (50 mL) and extracted with ethyl acetate (2×50 mL). The organic extracts were dried over sodium sulfate concentrated in vacuo to an oil and purified by flash chromatography using 90/10 dichloromethane/methanol to give N-[1′-(6-cyano-1,2,3,4-tetrahydro-2(R)-naphthalenyl)-3,4-dihydro-4(R)-hydroxyspiro-[2H-1-benzopyran-2,4′-piperidin]-6-yl]amine, (0.218 gm, 80%) as a foam. MS m/z 390 (M+), 1H NMR (CDCL3) δ 1.4-2.2 (9 H, m), 2.6-3.2 (9 H, m), 3.4 (2 H, br s), 4.82 (1 H, br t), 6.60 (1 H, dd, J=9.3 and 2.8 Hz), 6.71(1 H, d, J=9.3 Hz), 6.81 (1 H, d, J=2.8 Hz), 7.18 (1 H, d, J=9.3 Hz), 7.37 (2 H, m).

reactant | N-[1′-(6-cyano-1,2,3,4-tetrahydro-2(R)-naphthalenyl)-3,4-dihydro-4(R)-t-butyldimethylsilyloxyspiro[2H-1-benzopyran-2,4′-piperidin]-6-yl]trimethylsilylethanesulfonamide | 0.75 mmole, 0.50 gm | C(#N)C=1C=C2CC[C@H](CC2=CC1)N1CCC2(CC1)OC1=C([C@@H](C2)O[Si](C)(C)C(C)(C)C)C=C(C=C1)NS(=O)(=O)C(C)[Si](C)(C)C | C35H53N3O4SSi2
reactant | cesium fluoride | 2.25 mmole, 0.34 gm | [F-].[Cs+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | N-[1′-(6-cyano-1,2,3,4-tetrahydro-2(R)-naphthalenyl)-3,4-dihydro-4(R)-hydroxyspiro-[2H-1-benzopyran-2,4′-piperidin]-6-yl]amine | 0.218 gm, 80% | C(#N)C=1C=C2CC[C@H](CC2=CC1)N1CCC2(CC1)OC1=C([C@@H](C2)O)C=C(C=C1)N | C24H27N3O2
